US09056873B2
Preparation 11: 2-(Tributylstannyl)thieno[3,2-c]pyridine
To a cold (−78° C.) solution of thieno[3,2-c]pyridine (2.000 g, 14.79 mmol) in anhydrous THF (50 mL) was added n-butyllithium (10.17 mL, 16.27 mmol) dropwise. The reaction mixture was stirred at −78° C. for 60 minutes. A solution of tributylchlorostannane (4.79 mL, 17.75 mmol) in anhydrous THF (10 mL) was added. The reaction mixture was stirred at −78° C. for 30 minutes and the solution was allowed to warm to room temperature over a period of 2 to 3 hours. Saturated aqueous NaHCO3 was added. The aqueous phase was extracted with ether (3×200 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo. The crude product was purified by silica gel column chromatography, eluting with a gradient of 10-50% EtOAc and hexane over a period of 60 minutes. The desired fractions were collected to give the title compound as a clear oil (4.2 g, 67%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.79-0.94 (m, 9H), 1.10-1.24 (m, 6H), 1.32 (sextet, J=7.32 Hz, 6H), 1.51-1.66 (m, 6H), 7.63-7.70 (m, 1H), 8.04 (d, J=5.37 Hz, 1H), 8.35 (d, J=5.86 Hz, 1H), 9.16 (d, J=0.98 Hz, 1H).

reactant | thieno[3,2-c]pyridine | 14.79 mmol, 2.000 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | n-butyllithium | 16.27 mmol, 10.17 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 17.75 mmol, 4.79 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(Tributylstannyl)thieno[3,2-c]pyridine | 4.2 g, 67% | C(CCC)[Sn](C1=CC=2C=NC=CC2S1)(CCCC)CCCC | InChI=1S/C7H4NS.3C4H9.Sn/c1-3-8-5-6-2-4-9-7(1)6;3*1-3-4-2;/h1-3,5H;3*1,3-4H2,2H3;
